US08258134B2
A solution of 4-chloro-2-(tetrahydro-pyran-2-yl)-5-(2-trifluoromethyl-phenoxy)-2H-pyridazin-3-one (4.78 g, 12.78 mmol) in methanol (25.5 mL, 0.5M) was treated with a 6N aqueous hydrochloric acid solution (10.6 mL, 1.2M). The reaction solution was heated to 110° C., where it stirred for 4 h and was then allowed to cool down to 25° C. The reaction was diluted with water (250 mL) and extracted with a 90/10 methylene chloride/methanol solution (3×100 mL). The combined organic layers were dried over sodium sulfate, filtered, and dried in vacuo to afford 4-chloro-5-(2-trifluoromethyl-phenoxy)-2H-pyridazin-3-one (3.76 g, 100%) as a white solid; ES+-HRMS m/e calcd for C11H6N2O2F3Cl [M+H+] 291.0143, found 291.0142. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.41-7.51 (m, 2H), 7.74 (t, J=8.2 Hz, 1H), 7.79 (s, 1H), 7.86 (d, J=7.8 Hz, 1H), 13.59 (br. s., 1H).

reactant | 4-chloro-2-(tetrahydro-pyran-2-yl)-5-(2-trifluoromethyl-phenoxy)-2H-pyridazin-3-one | 12.78 mmol, 4.78 g | ClC=1C(N(N=CC1OC1=C(C=CC=C1)C(F)(F)F)C1OCCCC1)=O | C16H14ClF3N2O3
reactant | hydrochloric acid | 6N, 10.6 mL | Cl | ClH
solvent | methanol | 0.5M, 25.5 mL | CO | CH4O
solvent | water | 250 mL | O | H2O
product | 4-chloro-5-(2-trifluoromethyl-phenoxy)-2H-pyridazin-3-one | 3.76 g, 100% | ClC=1C(NN=CC1OC1=C(C=CC=C1)C(F)(F)F)=O | C11H6ClF3N2O2
